US09422271B2
N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(4-(methylsulfonyl)phenyl)pyrimidin-4-amine (Compound 15)
A mixture of 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (200 mg, 0.85 mmol, 1.0 equiv.), 4-(methylsulfonyl)phenylboronic acid (187 mg, 0.93 mmol, 1.1 equiv.), Pcy3 (57 mg, 0.204 mmol, 0.24 equiv.), Pd2 (dpa)3 (78 mg, 0.085 mmol, 0.1 equiv.), K3PO4 (722 mg, 3.4 mmol, 4 equiv.), dioxane (5 ml) and water (1 ml) was added to the filtrate. The reaction mixture was heated to 100° C. for 15 h under nitrogen atmosphere. The residue was purified by silica gel chromatography (CH2Cl2/methanol 500:1 to 100:1) to afford title compound N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(4-(methylsulfonyl)phenyl) pyrimidin-4-amine (Compound 15) (16.2 mg, 5.4%) as white solid. LC-MS (m/z)=356.0 [M+H]+; 1H NMR (300 MHz, DMSO-d6): δ 0.73 (m, 2H), 0.94 (m, 2H), 1.91 (m, 1H), 3.26 (s, 3H), 8.06 (d, J=8.7 Hz, 2H), 8.40 (d, J=6 Hz, 2H), 8.53 (d, J=8.4 Hz, 2H), 9.99 (s, 1H), 12.10 (s, 1H).

reactant | 2-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.85 mmol, 200 mg, 1.0 equiv. | ClC1=NC=CC(=N1)NC1=NNC(=C1)C1CC1 | C10H10ClN5
reactant | 4-(methylsulfonyl)phenylboronic acid | 0.93 mmol, 187 mg, 1.1 equiv. | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | Pcy3 | 0.204 mmol, 57 mg, 0.24 equiv. | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3 | C18H33P
reactant | K3PO4 | 3.4 mmol, 722 mg, 4 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | water | 1 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(4-(methylsulfonyl)phenyl) pyrimidin-4-amine | 16.2 mg, 5.4% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C17H17N5O2S
